US09167819B2
Step 1: Synthesis of 2-methoxy-3-(methylsulfanyl)-N-(1-methyl-1H-tetrazol-5-yl)-4-(trifluoromethyl)benzamide
1.45 g (98% by weight; 14.3 mmol) of 5-amino-1-methyl-1H-tetrazole were added to 3.00 g (11.3 mmol) of 2-methoxy-3-(methylsulfanyl)-4-(trifluoromethyl)benzoic acid in 30 ml of dry pyridine. 2.00 g (15.8 mmol) of oxalyl chloride were then added, and the mixture was subsequently stirred at room temperature (RT) for three days. Another 500 mg (3.94 mmol) of oxalyl chloride were then added, and the mixture was subsequently stirred at RT for 16 h. For work-up, the contents were substantially freed from the solvent on a rotary evaporator. The residue was stirred with dichloromethane and a saturated solution of sodium bicarbonate. The organic phases were then separated and the organic phase was freed from the solvent on a rotary evaporator. The residue was purified chromatographically, which gave 1.83 g of clean product.

reactant | 5-amino-1-methyl-1H-tetrazole | 14.3 mmol, 1.45 g | NC1=NN=NN1C | C2H5N5
reactant | 2-methoxy-3-(methylsulfanyl)-4-(trifluoromethyl)benzoic acid | 11.3 mmol, 3.00 g | COC1=C(C(=O)O)C=CC(=C1SC)C(F)(F)F | C10H9F3O3S
reactant | oxalyl chloride | 15.8 mmol, 2.00 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 3.94 mmol, 500 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2-methoxy-3-(methylsulfanyl)-N-(1-methyl-1H-tetrazol-5-yl)-4-(trifluoromethyl)benzamide | 1.83 g | COC1=C(C(=O)NC2=NN=NN2C)C=CC(=C1SC)C(F)(F)F | C12H12F3N5O2S
